US06638967B2
1-[4-(3,5-Dichloro-phenoxy)-benzyl]-pyrrolidine
The title compound was prepared starting from 4-(3,5-dichloro-phenoxy)-benzaldehyde and pyrrolidine by the same method (step B) described in Example 1. 1H NMR (400 MHz, CDCI3)δ7.22 (t, J=7.8 Hz, 1 H), 7.07 (d, J=7.6 Hz,1 H), 6.96 (m, 2 H), 6.81 (m,1 H), 6.76 (m, 2 H), 3.52 (s, 2 H), 2.45 (m, 4 H), 1.70 (m, 4 H).

reactant | 4-(3,5-dichloro-phenoxy)-benzaldehyde | ClC=1C=C(OC2=CC=C(C=O)C=C2)C=C(C1)Cl | C13H8Cl2O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-[4-(3,5-Dichloro-phenoxy)-benzyl]-pyrrolidine | ClC=1C=C(OC2=CC=C(CN3CCCC3)C=C2)C=C(C1)Cl | C17H17Cl2NO
